US08389720B2
tert-butyl 4-[cyano(phenyl)methylene]piperidine-1-carboxylate
To tert-butyl 4-[cyano(phenyl)methyl]-4-hydroxypiperidine-1-carboxylate (1.8 g, 5.69 mmol) in pyridine (4 ml) was added SOCl2 (2.076 ml, 28.4 mmol) and the reaction was stirred for 10 min. The reaction mixture was concentrated in vacuo. The resulting crystalline solid was adsorbed onto silica gel and purified by silica gel chromatography in an Isco Companion. The desired fractions were combined and concentrated in vacuo. 1.18 g, 70% over two steps.

reactant | tert-butyl 4-[cyano(phenyl)methyl]-4-hydroxypiperidine-1-carboxylate | 5.69 mmol, 1.8 g | C(#N)C(C1(CCN(CC1)C(=O)OC(C)(C)C)O)C1=CC=CC=C1 | C18H24N2O3
reactant | SOCl2 | 28.4 mmol, 2.076 ml | O=S(Cl)Cl | Cl2OS
solvent | pyridine | 4 ml | N1=CC=CC=C1 | C5H5N
product | tert-butyl 4-[cyano(phenyl)methylene]piperidine-1-carboxylate | C(#N)C(=C1CCN(CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C18H22N2O2
